US08258169B2
To a solution of O-ethyl-N-[1-methyl-2-(2,4,6-trichloro-phenyl)-ethyl]-hydroxylamine (0.5 g, 1.63 mmoles) in dichloromethane (5 ml) was added triethylamine (0.566 ml, 4.07 mmloes) followed by drop wise addition of a solution 3-difluoromethyl-1-methyl-1H-pyrazole-4-carbonyl chloride (0.34 g, 1.79 mmol) in dichloromethane at a temperature of 0° C. After the complete addition of acid chloride the mixture was stirred for 18 hours at ambient temperature. When the TLC confirmed completion of the reaction, the reaction mass was diluted with water and extracted with dichloromethane (3×60 ml). The combined dichloromethane layer were washed with 2N HCl, followed by saturated NaHCO3, then water and finally brine, dried over sodium sulfate and evaporated off solvent under reduced pressure. Resulting crude mass was purified by column chromatography using 60-120μ mesh silica gel and product collected at 30% ethyl acetate in hexane as eluent to give 3-difluoromethyl-1-methyl-1H-pyrazole-4-carboxylic acid ethoxy-[1-methyl-2-(2,4,6-trichloro-phenyl)-ethyl]-amide (0.390 g, 50%) as off white solid. m.p: 111-114° C.

reactant | O-ethyl-N-[1-methyl-2-(2,4,6-trichloro-phenyl)-ethyl]-hydroxylamine | 1.63 mmoles, 0.5 g | C(C)ONC(CC1=C(C=C(C=C1Cl)Cl)Cl)C | C11H14Cl3NO
reactant | triethylamine | 0.566 ml | C(C)N(CC)CC | C6H15N
reactant | 3-difluoromethyl-1-methyl-1H-pyrazole-4-carbonyl chloride | 1.79 mmol, 0.34 g | FC(C1=NN(C=C1C(=O)Cl)C)F | C6H5ClF2N2O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 3-difluoromethyl-1-methyl-1H-pyrazole-4-carboxylic acid ethoxy-[1-methyl-2-(2,4,6-trichloro-phenyl)-ethyl]-amide | 0.390 g, 50% | C(C)ON(C(=O)C=1C(=NN(C1)C)C(F)F)C(CC1=C(C=C(C=C1Cl)Cl)Cl)C | C17H18Cl3F2N3O2
